US04267192
Methyl(5H-dibenzo[a,d]cyclohepten-5-ylidene)acetate
Oxalyl chloride (2.665 g., 1.79 ml., 0.021 mole) is added to a suspension of (5H-dibenzo[a,d]cyclohepten-5-ylidene)acetic acid (5.000 g., 0.020 mole) in dry benzene (70 ml.). An exothermic reaction occurs and the solid gradually dissolves. After solution is complete, the mixture is refluxed for one hour, then concentrated in vacuo to give an amber oil which crystallizes on storage at ambient temperature. The yield of crude ester melting at 83.5°-84.5° C. (uncorr.) is 5.210 g. (99.31%). Recrystallization of the material from methanol affords colorless rods melting at 86.0°-86.5° C. (uncorr.) in a yield of 3.508 g. (66.86%).

reactant | Oxalyl chloride | 0.021 mole, 1.79 ml, 2.665 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (5H-dibenzo[a,d]cyclohepten-5-ylidene)acetic acid | 0.020 mole, 5.000 g | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=CC(=O)O | C17H12O2
solvent | benzene | 70 ml | C1=CC=CC=C1 | C6H6
product | Methyl(5H-dibenzo[a,d]cyclohepten-5-ylidene)acetate | COC(C=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2)=O | C18H14O2
